US04737439
D. (NA-IV) 1,2-Didecanoyloxy-1,2-di-(2-pyridyl)ethene
To 21.0 g (0.1 mole) of pulverized α-pyridoin (commercially available, e.g. from Aldrich Chemical Co.) was added 9.5 g (0.05 mole) decanoyl chloride. The reaction mixture was mixed for 30 minutes, after which it became solid. The solid was extracted with acetonitrile and the acetonitrile solution evaporated to yield an oily semisolid. Recrystallization from 70% cyclohexanone-30% acetone yielded 1.3 g (9.9%) white fine needles of compound NA-IV, m.p. 89°-90° C.

reactant | α-pyridoin | 0.1 mole, 21.0 g | C1=CC=NC(=C1)C(C(=O)C2=CC=CC=N2)O | C12H10N2O2
reactant | decanoyl chloride | 0.05 mole, 9.5 g | C(CCCCCCCCC)(=O)Cl | C10H19ClO
product | 1,2-Didecanoyloxy-1,2-di-(2-pyridyl)ethene | 1.3 g, 9.9% | C(CCCCCCCCC)(=O)OC(=C(C1=NC=CC=C1)OC(CCCCCCCCC)=O)C1=NC=CC=C1 | C32H46N2O4
